datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)([CH:10]2CC2)[O:12]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC[O:33][C:31]([CH:20]([CH:10]1CC1)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1.C[C:61]([CH-:10][C:81]1=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]1)=[O:62]>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10]([C:61](C)=[O:62])[C:81]2=[CH:82][CH:83]=[CH:84][CH:93]=[CH:92]2)[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"C1C[C:20](=[O:21])CCS1.[S:10]=[C:11]1[CH:12]=[CH:13]/[C:14](=[N+:15](\[O-:16])[O-:66])[CH:73]=[CH:72]1>>C1C[C:20]([S:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:66])[CH:73]=[CH:72]2)([O-:21])CCS1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20]/[CH:41]=[CH:42]/C2=CC=CC=C2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].O=[N+]([O-])C1=CC([N+](=O)[O-])=CC([C:61]([O-:10])=[O:62])=C1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([O:10][C:61](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)=[O:62])/[CH:41]=[CH:42]/C2=CC=CC=C2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[CH-:10]([C:71]([C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1)=[O:72])[N+:81](=[O:82])[O-:92]>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:71]([C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)=[O:72])[N+:81](=[O:82])[O-:92])([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C.[O:10]=[C:11]1[CH:12]=[CH:13][N-:14][CH:63]=[CH:62]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([O:10][C:11]2=[CH:12][CH:13]=[N:14][CH:63]=[CH:62]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2.C[S:61]([NH-:10])(=[O:62])=[O:63]>>C[N:23]1C2=C(C=CC=C2)[C:21]([CH:20]([NH:10][S:61](C)(=[O:62])=[O:63])[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)=[CH:22]1 10=20;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([CH:10]1[CH:11]=[NH+:12][C:62]3=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]3)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[C:22]2[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1([H:10])[O:12]CC[O:62]1.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[C:11]1=[O+:12]CC[O:62]1.C[Si](C)(C)C12[C:31]3([CH2:20][H:10])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[C:11]1=[N:10]CC[N:12]1[C:63](C)=[O:64]>>C[C:11]1=[N+:12]([C:63](C)=[O:64])CC[N:10]1[C:20]1([C:41]2=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1 10,11=10,20;12=11,12"
"C[C:21]1=[CH:20]CC[C:22]1=[O:23].[NH3:10]>>C[C:21]1=[C:22]([O-:23])CC[CH:20]1[NH3+:10] 10=20;20,21=21,22;22,23=23"
"C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2-:11][H:10])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1>>C1CC[N:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CC1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:63]1=[C:62]([BH2:11])[N:73](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64]1 10,11=10,20;20,21=21"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12"
